US05281593
ii) 7-Benzyloxy-4-chloroindole
M Vinyl magnesium bromide solution in tetrahydrofuran (80 ml) was added to a stirred solution of 2-benzyloxy-5-chloronitrobenzene (5.28 g, 20 mmol) in tetrahydrofuran (160 ml) at -40° C. The mixture was stirred for 2 hours at -40° C. then poured onto saturated ammonium chloride solution (500 ml) and extracted with ether. The extract was dried and evaporated and the residue was chromatographed on silica in ethyl acetate-hexane (1:8) to give a yellow oil.

reactant | Vinyl magnesium bromide | C(=C)[Mg]Br
reactant | 2-benzyloxy-5-chloronitrobenzene | 20 mmol, 5.28 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C13H10ClNO3
reactant | ammonium chloride | 500 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | 7-Benzyloxy-4-chloroindole | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CNC12)Cl | C15H12ClNO
